US04061759
Step F: Preparation of 2-vinyl-3-hydroxy-4,5-dihydroxymethylpyridine hydrochloride
A 2 liter flask is charged with one equivalent of methyl triphenylphosphonium chloride and 600 ml. of anhydrous diethyl ether. This solution is cooled to 0° C. and one equivalent of n-butyllithium in hexane is introduced over a 30 minute period under nitrogen. When addition is complete, the solution is aged an additional 30 minutes at 0°-5° C. Then a solution of one equivalent of 2-formyl-3-acetoxy-4,5-diacetoxymethyl pyridine in 250 ml. of anhydrous ether is added dropwise with stirring over a one hour period. The reaction mixture is then aged 16 hours at room temperature, and is then cooled to 0° C. and filtered. The filtrate is concentrated to dryness under reduced pressure and treated with a mixture of 500 ml. of 2.5 N hydrochloric acid and 300 ml. of ethyl acetate. After shaking well, the organic phase is separated and discarded. The aqueous phase is extracted with 2 more 300 ml. portions of ethyl acetate and these too are discarded. The aqueous phase is then refluxed with stirring under nitrogen for 3 hours and after cooling is poured onto excess aqueous sodium bicarbonate. The crude, solid, free base is isolated by filtration and air dried. This crude solid is taken up into 300 ml. dry tetrahydrofuran and saturated with dry hydrogen chloride at 0° C. Then 300 ml. dry diethyl ether is introduced and the desired hydrochloride crystallized. It is isolated by filration and dried in vacuo.

reactant | methyl triphenylphosphonium chloride | one equivalent | [Cl-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | n-butyllithium | one equivalent | C(CCC)[Li]
reactant | 2-formyl-3-acetoxy-4,5-diacetoxymethyl pyridine | one equivalent | C(=O)C1=NC=C(C(=C1OC(C)=O)COC(C)=O)COC(C)=O | C14H15NO7
reactant | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2-vinyl-3-hydroxy-4,5-dihydroxymethylpyridine hydrochloride | Cl.C(=C)C1=NC=C(C(=C1O)CO)CO | InChI=1S/C9H11NO3.ClH/c1-2-8-9(13)7(5-12)6(4-11)3-10-8;/h2-3,11-13H,1,4-5H2;1H
